US07982036B2
To a solution of N2-(6-chloropyrimidin-4-yl)pyridine-2,6-diamine (200 mg, 0.90 mmol) in dry DMF (2 mL) was added 3-methoxyphenol (112 mg, 0.90 mmol) and anhydrous K2CO3 (186 mg, 1.353 mmol). The reaction mixture was heated at 100° C. for 16 h under N2 atmosphere. It was then cooled and DMF removed under reduced pressure to give a yellowish gummy residue that was taken in EtOAc (10 mL). It was washed with water (5 mL), brine (5 mL), dried over Na2SO4 and then concentrated under reduced pressure to give a crude product. This was further purified by column chromatography (SiO2, 60-120, hexane/EtOAc, 5/5) to give N2-(6-(3-methoxylphenoxy)pyrimidin-4-yl)pyridine-2,6-diamine (110 mg, 40.7%) as a pale yellow solid.

reactant | N2-(6-chloropyrimidin-4-yl)pyridine-2,6-diamine | 0.90 mmol, 200 mg | ClC1=CC(=NC=N1)NC1=NC(=CC=C1)N | C9H8ClN5
reactant | 3-methoxyphenol | 0.90 mmol, 112 mg | COC=1C=C(C=CC1)O | C7H8O2
reactant | K2CO3 | 1.353 mmol, 186 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | N2-(6-(3-methoxylphenoxy)pyrimidin-4-yl)pyridine-2,6-diamine | 110 mg, 40.7% | O(C)C=1C=C(OC2=CC(=NC=N2)NC2=NC(=CC=C2)N)C=CC1 | C16H15N5O2
